US06528510B1
1-Furan-2-yl-4-methyl-pent-1-en-3-one
The titled compound was prepared according to General Method 2 by reacting 2-furaldehyde (117 mmol), 2-methyl-butan-3-one (117 mmol), anhydrous Ba(OH)2 (2.2 g) and EtOH (200 mL) to afford the desire compound.

reactant | 2-furaldehyde | 117 mmol | O1C(=CC=C1)C=O | C5H4O2
reactant | 2-methyl-butan-3-one | 117 mmol | CC(C)C(C)=O | C5H10O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 1-Furan-2-yl-4-methyl-pent-1-en-3-one | O1C(=CC=C1)C=CC(C(C)C)=O | C10H12O2
